US05998433
b) Synthesis of ethyl 3-(3-furyl)propionate
To a solution of 8.186 g (49.26 mmol) of ethyl (E)-3-(3-furyl)acrylate, 24.7 g (493 mmol) of hydrazine monohydrate, 5 ml of acetic acid and 5 ml of saturated aqueous copper sulfide in 500 ml of ethanol, a solution of 52.7 g (246 mmol) of sodium periodate in 300 ml of water was added dropwise over a period of 1 hour, followed by stirring at room temperature for 1 day. The reaction mixture was extracted with ether 3 times. The combined organic layer was washed with dilute hydrochloric acid and then aqueous sodium hydrogen carbonate, and dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=15/1) to yield the desired product.

reactant | ethyl (E)-3-(3-furyl)acrylate | 49.26 mmol, 8.186 g | O1C=C(C=C1)/C=C/C(=O)OCC | C9H10O3
reactant | hydrazine monohydrate | 493 mmol, 24.7 g | O.NN
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | sodium periodate | 246 mmol, 52.7 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
catalyst | copper sulfide | 5 ml | [Cu]=S
product | ethyl 3-(3-furyl)propionate | O1C=C(C=C1)CCC(=O)OCC | C9H12O3
